US07470680B2
(S)-1,4-dibromo-7-(2-oxo-2-(4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(1,4-Dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (51 mg, 0.102 mmol) was dissolved in N,N-dimethylformamide (1.5 mL). N,N-Diisopropylethylamine (90 μl, 0.517 mmol) was added to the mixture followed by TBTU (36.1 mg, 0.112 mmol). 1-(Piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride (36.5 mg, 0.125 mmol) was added to the mixture. Reaction stirred at room temperature for 2.5 hours. Reaction was quenched with 50% acetonitrile-water. Mixture was purified by reverse phase prep HPLC (acetonitrile-water-trifluoroacetic acid). Acetonitrile was removed from the fraction by roto-vap. Remaining aqueous was made basic with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 34% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.92 (s, 1H) 11.56 (d, J=6.41 Hz, 1H) 7.90 (d, J=5.19 Hz, 1H 7.65 (dd, J=69.89, 7.93 Hz, 1H) 7.49 (s, 1H) 6.81-7.06 (m, 1H) 5.54-5.68 (m, 1H) 5.35-5.50 (m, 1H) 4.49-4.63 (m, 1H) 4.32-4.42 (m, 1H) 4.20-4.49 (m, 1H) 4.13-4.20 (m, 1H) 3.93-4.14 (m, 1H) 3.22 (d, J=16.17 Hz, 2H) 2.97-3.12 (m, 1H) 2.86-2.97 (m, 1H) 2.67-2.79 (m, 1H) 2.52-2.66 (m, 1H) 2.42-2.48 (m, J=17.09 Hz, 1H) 2.34-2.42 (m, 1H) 1.93-2.32 (m, 1H) 1.74-1.85 (m, 1H) 1.65-1.74 (m, 1H). High resolution MS m/e (M+H)+=698.0314.

reactant | (S)-2-(1,4-Dibromo-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.102 mmol, 51 mg | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CC(F)(F)F)Br | C15H12Br2F3N3O3
reactant | N,N-Diisopropylethylamine | 0.517 mmol, 90 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.112 mmol, 36.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-(Piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride | 0.125 mmol, 36.5 mg | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (S)-1,4-dibromo-7-(2-oxo-2-(4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)piperidin-1-yl)ethyl)-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 34% yield | BrC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(N3CCC(CC3)N3C(NC1=NC=CC=C13)=O)=O)=O)CC(F)(F)F)Br | C26H24Br2F3N7O3
